US05140026
N-[4-[N-[2-(4-morpholinyl)ethyl]-S-(4-(phenylsulfinyl)butyl]sulfonimidoyl]phenyl]methanesulfonamide
A cold (0° C.) solution of S-[4-(methanesulfonylamino)phenyl]-N-[2-(4-morpholinyl)ethyl]-S-[4-(phenylthio)butyl]sulfoximine in methanol is treated slowly with excess 30% sulfuric acid and then sodium perborate tetrahydrate (10 equivalents) is added. The mixture is stirred at 0° C. for 2 hrs and then at ambient temperature for 2 hrs. The methanol is removed in vacuo and the residue basified with 50% sodium hydroxide and filtered. The filter cake is washed with methylene chloride. The aqueous filtrate is extracted with methylene chloride and the extract combined with the methylene chloride used to wash the filter cake. The methylene chloride solution is washed with water, dried and concentrated to obtain the title compound.

reactant | S-[4-(methanesulfonylamino)phenyl]-N-[2-(4-morpholinyl)ethyl]-S-[4-(phenylthio)butyl]sulfoximine | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)(=NCCN1CCOCC1)CCCCSC1=CC=CC=C1 | C23H33N3O4S3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium perborate tetrahydrate | 10 equivalents | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | methanol | CO | CH4O
product | N-[4-[N-[2-(4-morpholinyl)ethyl]-S-(4-(phenylsulfinyl)butyl]sulfonimidoyl]phenyl]methanesulfonamide | N1(CCOCC1)CCN=S(=O)(CCCCS(=O)C1=CC=CC=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C23H33N3O5S3
